US04871852
On the other hand, a suspension of magnesium ethoxide and 3.1 g of diethyl malonate in 30 ml of anhydrous diethyl ether was refluxed for 1 hour. To the cooled suspension was added dropwise 15 ml of an anhydrous diethyl ether solution of 2,4,5-trifluorobenzoyl chloride obtained above with stirring. The resulting mixture was stirred at room temperature for 1 hour. After acidification with diluted hydrochloric acid, the mixture was extracted with 150 ml of ethyl acetate (50 ml×3). The extract was dried over sodium sulfate, and the solvent was removed by distillation. The resulting residue was dissolved in 50 ml of dioxane and a catalytic amount of p-toluenesulfonic acid was added thereto. The mixture was refluxed for 24 hours and, after cooling, the reaction mixture was neutralized with an aqueous sodium bicarbonate solution and extracted with 200 ml of chloroform. The extract was dried over sodium sulfate, and the solvent was removed. The residue was subjected to silica gel column chromatography and 2.1 g of ethyl 2,4,5-trifluorobenzoylacetate was yielded from benzene eluate.

reactant | magnesium ethoxide | [O-]CC.[Mg+2].[O-]CC
reactant | diethyl malonate | 3.1 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 2,4,5-trifluorobenzoyl chloride | FC1=C(C(=O)Cl)C=C(C(=C1)F)F | C7H2ClF3O
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 15 ml | C(C)OCC | C4H10O
product | ethyl 2,4,5-trifluorobenzoylacetate | 2.1 g | FC1=C(C(=O)CC(=O)OCC)C=C(C(=C1)F)F | C11H9F3O3
